2190-11-15 07:10:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - EEG showed focal seizure activity, so neurology consulted.  They gave
   ativan with some correction of seizure activity and recommended
   dilantin loading prior to expected burr hole procedure.
   - 5pm dilantin level 17.7, which with albumin of 3.3 and low Cr
   clearance corrects to level of 41.2.  Will not give further dilantin
   tonight and reassess with neuro in AM.
   - Family gave consent to neurosurg for procedure, but were worried when
   anesthesia explained that he may be difficult to extubate.
   - Per nursing, has basically been unresponsive to voice or sternal rub
   since ativan and dilantin
   Allergies:
   Iodine
   Rash;
   Aspirin
   swelling at lip
   Nsaids
   lip swelling;
   E-Mycin (Oral) (Erythromycin Base)
   Nausea/Vomiting
   Ciprofloxacin
   Rash;
   Levofloxacin
   Flushing;
   Phenylephrine
   Rash; Local ery
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Dilantin - [**2190-11-14**] 01:40 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-11-15**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.8
C (100
   HR: 93 (84 - 102) bpm
   BP: 153/60(80) {115/43(64) - 165/109(117)} mmHg
   RR: 28 (13 - 32) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 60 Inch
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ///31/
   Physical Examination
   Unresponsive to voice or sternal rub. Pupils 5mm bilaterally and
   appropriately constrict to light. Mouth breathing and has periods of
   apnea. Lungs with poor to fair air movement, difficult to auscultate on
   L given significant systolic murmur. RRR. Abd soft NT. No BLE edema
   Labs / Radiology
   299 K/uL
   11.3 g/dL
   96 mg/dL
   4.0 mg/dL  <--3.0, 2.2
   31 mEq/L
   5.3 mEq/L  <--4.5, 4.1
   36 mg/dL  <--24, 18
   102 mEq/L
   145 mEq/L
   35.8 %
   8.1 K/uL
        [image002.jpg]
                             [**2190-11-14**]  06:08 AM
                             [**2190-11-15**]  04:46 AM
   WBC
   6.4 <-- 8.4
   8.1
   Hct
   35.8
   35.8
   Plt
   220
   299
   Cr
   3.0
   4.0
   Glucose
   95
   96
   Other labs: PT / PTT / INR:13.9/33.3/1.2  (TODAY), ALT / AST:[**12-21**]
   (YESTERDAY) , Alk Phos / T Bili:139/0.4, Albumin:3.3 g/dL, LDH:187
   IU/L, Ca++:9.4 mg/dL, Mg++:2.0 mg/dL, PO4:4.6 mg/dL
   Dilantin yesterday 17.7 wnl
   Imaging: [**11-14**] EEG pending
   [**11-13**] CT without contrast
   FINDINGS: There is a new large 2.5 cm fluid collection in a lentiform
   [**Doctor Last Name 9874**]
   overlying the right frontoparietal area (series 105B, image 76) which
   effaces
   the sulci and causes mass effect with 8 mm of rightward shift. The
   attenuation is at the fluid level although more hyperattenuating
   strands are
   seen within this fluid collection consistent with blood. There is no
   loss of
   [**Doctor Last Name 1359**]-white differentiation. Ventricles on the right are of normal
   configuration. There is no depressed skull fracture. Visualized mastoid
   air
   cells are clear. Visualized paranasal sinuses are normal. The orbits
   appear
   normal.
   IMPRESSION: Lentiform left frontoparietal fluid collection measuring
   2.6 cm,
   new with mass effect. Attenuation values suggest mostly CSF densoty
   with some
   hemorrhagic elements. This may represent a subdural hygroma mostly
   containing
   CSF secondary to hypotension.
   [**11-13**] CXR portable
   IMPRESSION: Unchanged retrocardiac opacification which likely
   represents
   atelectasis and pleural effusion, although underlying infectious
   process
   cannot be excluded.
   Microbiology: [**2190-11-13**] BCx negative to date
   Assessment and Plan
 MALNUTRITION
 SUBDURAL HEMORRHAGE (SDH)
 DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
   Assessment and Plan: This is an 89 year old male with a history of
   dementia, hypertension, ESRD on hemodialysis and recent admission for
   fevers and failure to thrive who presents from dialysis with a syncopal
   episode found to have a new left sided fluid collection on head CT.
   1. Unresponsiveness: Likely due to Ativan and Dilantin in pt with ESRD
   and elderly but concerning for worsening intracranial process.
   - No more sedating meds
   - Hold on Dilantin until f/u with Neurology this am
   - If doesn
t wake up may need drugs dialyzed off?
   - Get stat head CT this am to reassess worsening fluid collection in
   head and see if any herniation
   - Get repeat ABG this am
   2. Left sided intracranial fluid collection:  Unclear chronicity but pt
   has been having significant decline over past couple months. Family has
   been in discussion with neurosurgery re: burr hole and evacuation,
   however apparently they were hesitant after speaking anesthesia
   - F/u with family about whether they want to do the NSurg procedure
   - F/u with Neurology, NSurg
   - Is NPO for procedure
   - Hold SubQ heparin
   3. Seizure activity:
   - Was given ativan and dilantin and is now unresponsive
   - F/u with Neurology this am about med regimen for
   prophylaxis/treatment
   4. Low grade fevers: No clear signs of infection but with suspicious
   opacity on CXR
   - Repeat CXR this am
   - Needs UA and UCx
   - Hold off on ABx for now
   -ESRD on hemodialysis: Received dialysis Saturday.  Currently appears
   euvolemic.
   - renal consult in AM for dialysis in house
   Asthma: Stable.
   - continue Fluticasone 110 mcg 2 puffs [**Hospital1 **]
   Dementia/Malnutrition/Failure to Thrive:  Per notes, patient has had a
   substantial decline recently and has waxing and [**Doctor Last Name 226**] mental status.
   Currently unable to respond to questions.
   - continue mirtazapine
   - will need to discuss goals of care with family
   Hypertension:
   - continue captopril 6.25 mg TID
   Hyperlipidemia:
   - continue simvastatin 10 mg daily
   FEN: No IVF, replete electrolytes, regular diet
   Prophylaxis: Pneumoboots, bowel regimen, add on H2 blocker
   Access: peripherals
   Code:  DNR/DNI (per discussion with wife would not want heroic
   measures)
   Communication: Patient, wife [**Name (NI) 2614**] [**Name (NI) 9107**] [**Telephone/Fax (1) 9857**]
   Disposition: pending clinical improvement
   Low grade fevers
   - Needs UA and UCx
   - Repeat CXR a/p and lateral
   Seizure activity
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2190-11-14**] 12:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2190-11-15 10:19:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: subdural hematoma
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   EEG with some seizure activity --> treated with BZD and phenytoin -->
   less responsive
   Several family discussions by ICU team --> plan to go ahead with
   surgical drainage of SDH
   Patient unable to provide history: Encephalopathy
   Allergies:
   Iodine
   Rash;
   Aspirin
   swelling at lip
   Nsaids
   lip swelling;
   E-Mycin (Oral) (Erythromycin Base)
   Nausea/Vomiting
   Ciprofloxacin
   Rash;
   Levofloxacin
   Flushing;
   Phenylephrine
   Rash; Local ery
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Dilantin - [**2190-11-14**] 01:40 PM
   Other medications:
   colace, captopril, statin, remeron, fluticasone (held due to mental
   status)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-11-15**] 10:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.2
C (98.9
   HR: 99 (84 - 102) bpm
   BP: 142/65(94) {112/43(61) - 165/109(117)} mmHg
   RR: 28 (13 - 32) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ///31/
   Physical Examination
   General Appearance: Thin
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Extremities: Right lower extremity edema: Absent edema, Left lower
   extremity edema: Absent edema
   Skin:  Warm
   Neurologic: Responds to: Noxious stimuli, Movement: Non -purposeful,
   Tone: Normal
   Labs / Radiology
   11.3 g/dL
   299 K/uL
   96 mg/dL
   4.0 mg/dL
   31 mEq/L
   5.3 mEq/L
   36 mg/dL
   102 mEq/L
   145 mEq/L
   35.8 %
   8.1 K/uL
        [image002.jpg]
                             [**2190-11-14**]  06:08 AM
                             [**2190-11-15**]  04:46 AM
   WBC
   6.4
   8.1
   Hct
   35.8
   35.8
   Plt
   220
   299
   Cr
   3.0
   4.0
   Glucose
   95
   96
   Other labs: PT / PTT / INR:13.9/33.3/1.2, ALT / AST:[**12-21**], Alk Phos / T
   Bili:139/0.4, Albumin:3.3 g/dL, LDH:187 IU/L, Ca++:9.4 mg/dL, Mg++:2.0
   mg/dL, PO4:4.6 mg/dL
   Imaging: No new imaging
   Assessment and Plan
   89-year-old man with
          SDH with midline shift
          Decline in mental status/worsened encephalopathy (temporally
   associated with anti-epileptic rx)
          ESRD on hemodialysis
   We will plan:
          To OR with neurosurg
          If not to OR soon, re-CT urgently this morning
          Check ABG/VBG to exclude hypercarbia
          Review AED dosing with neurology
          [**Month (only) 8**] need HD today or tomorrow; renal following
   Add stress ulcer prophylaxis given intracranial process and ESRD.
   Other issues as per ICU team note.
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   20 Gauge - [**2190-11-14**] 12:00 AM
   18 Gauge - [**2190-11-14**] 08:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Multiple discussions with family.  No CPR, but pursuing
   operative
   Disposition :  ICU.
   Total time spent:  35 minutes

2190-11-16 07:10:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Altered mental status
   24 Hour Events:
 URINE CULTURE - At [**2190-11-15**] 10:00 AM
 OR SENT - At [**2190-11-15**] 03:00 PM
 OR RECEIVED - At [**2190-11-15**] 05:00 PM
   - Son in law physician [**Telephone/Fax (1) 9901**]
   - Dilantin started by neuro at 100 TID
   - surgery today, used MAC so no extubation
   - check dilantin level from this morning- still pending had to be sent
   to outside lab
   - continuous EEG monitoring.
   Allergies:
   Iodine
   Rash;
   Aspirin
   swelling at lip
   Nsaids
   lip swelling;
   E-Mycin (Oral) (Erythromycin Base)
   Nausea/Vomiting
   Ciprofloxacin
   Rash;
   Levofloxacin
   Flushing;
   Phenylephrine
   Rash; Local ery
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2190-11-15**] 02:00 PM
   Dilantin - [**2190-11-15**] 10:40 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-11-16**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 91 (83 - 103) bpm
   BP: 143/63(83) {126/32(57) - 163/106(112)} mmHg
   RR: 33 (14 - 34) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
                  Total In:
                                                                    549 mL
                  PO:
                  TF:
   IVF:
                                                                    350 mL
   Blood products:
                                                                    199 mL
   Total out:
                                                                     30 mL
                                                                     50 mL
   Urine:
                                                                     30 mL
                                                                     50 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    519 mL
                                                                    -50 mL
   Respiratory support
   O2 Delivery Device: Medium conc mask
   SpO2: 99%
   ABG: ///27/
   Physical Examination
   Opens eyes to voice but does not follow commands.  Dressing in place
   over head with small amounts of serosanguinous fluid. Pupils 5mm
   bilaterally and appropriately constrict to light. Mouth breathing
   loudly, especially with expiratory grunting. Lungs with poor to fair
   air movement, difficult to auscultate on L given significant systolic
   murmur. RRR. Abd soft NT. No LE edema
   Labs / Radiology
   312 K/uL
   11.3 g/dL
   107 mg/dL
   5.6 mg/dL
   27 mEq/L
   5.8 mEq/L
   52 mg/dL
   103 mEq/L
   147 mEq/L
   35.3 %
   10.2 K/uL
        [image002.jpg]
                             [**2190-11-14**]  06:08 AM
                             [**2190-11-15**]  04:46 AM
                            [**2190-11-16**]  05:06 AM
   WBC
   6.4
   8.1
   10.2
   Hct
   35.8
   35.8
   35.3
   Plt
   220
   299
   312
   Cr
   3.0
   4.0
   5.6
   Glucose
   95
   96
   107
   Other labs: PT / PTT / INR:14.0/29.4/1.2, ALT / AST:[**12-21**], Alk Phos / T
   Bili:139/0.4, Albumin:3.3 g/dL, LDH:187 IU/L, Ca++:9.0 mg/dL, Mg++:2.2
   mg/dL, PO4:6.1 mg/dL
   Imaging: CXR: left lung base is better ventilated than on the previous
   examination. No interval occurrence of parenchymal opacities. Unchanged
   size of the cardiac silhouette.
   Microbiology: [**11-15**] urine cx: Pending
   [**11-13**] blood cx: Pending
   Assessment and Plan
 MALNUTRITION
 SUBDURAL HEMORRHAGE (SDH)
 DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
   Assessment and Plan: This is an 89 year old male with a history of
   dementia, hypertension, ESRD on hemodialysis and recent admission for
   fevers and failure to thrive who presents from dialysis with a syncopal
   episode found to have a new left sided fluid collection on head CT.
   Drained yesterday, now with tachypnea.
   1. Unresponsiveness: Likely due to medications in pt with ESRD and
   elderly but concerning for worsening intracranial process.  His CT head
   this morning shows air, which per neurosurgery is reassuring and shows
   room for brain re-expansion.
   - No more sedating meds
   - Hold on Dilantin until f/u with Neurology this am
 the drug seems to
   be making him more sedated.
   - Get stat head CT again during the day today if neuro exam seems to be
   worsening.
   2. Tachypnea: His exam is concerning for stridor.  His O2 saturations
   have been normal, and he does not have secretions or cough to suggest a
   new pneumonia.  Also has history of asthma.
   - CXR for new process.
   - bedside bronchoscopy to assess for cause of stridor.
   - Talk to neurosurgery about a possible central source.
   - Will try giving bronchodilators.
   3. Left sided intracranial fluid collection:  Drained in OR yesterday.
   Unclear chronicity but pt has been having significant decline over past
   couple months. Per neurosurgery brain will take time to re-expand as
   this was a chronic process.
   - F/u with Neurology, NSurg regarding further recs.
   - Will likely restart phenytoin.
   - Is NPO for procedure
   4. Seizure activity:
   - Currently not following commands but does not appear to be seizing.
   - f/u phenytoin level to decide on further doses.
   5. ESRD on hemodialysis: Received dialysis Saturday.  Currently appears
   euvolemic.
   - plan for dialysis in ICU today.  Will hold off on treating
   hyperkalemia until then.
   Dementia/Malnutrition/Failure to Thrive:  Per notes, patient has had a
   substantial decline recently and has waxing and [**Doctor Last Name 226**] mental status.
   Currently unable to respond to questions.
   - continue mirtazapine
   - will need to discuss goals of care with family
   Hypertension:
   - continue captopril 6.25 mg TID
   Hyperlipidemia:
   - continue simvastatin 10 mg daily
   FEN: No IVF, replete electrolytes, regular diet
   Prophylaxis: Pneumoboots, bowel regimen, H2 blocker
   Access: peripherals
   Code:  DNR/DNI.  Per discussion with wife, she would not want heroic
   measures and understands the significant risks involved with surgery
   that was done.
   Communication: Patient, wife [**Name (NI) 2614**] [**Name (NI) 9107**] [**Telephone/Fax (1) 9857**]
   Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2190-11-15**] 09:05 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: